* Z:\mnt\design.r\spice\examples\1213.asc
V1 +V 0 15
V3 IN 0 3.75 AC 1
XU1 N004 N001 +V 0 OUT LT1213
R1 OUT N001 4.12K
C1 OUT N001 5p
R2 N001 0 4.12K
R3 N004 N003 680
R4 N003 N002 680
C2 N004 0 150p
C3 OUT N003 200p
R5 N002 IN 680
C4 N002 0 390p
* Single Supply 3-Pole 1MHz Filter
.ac oct 100 1K 10Meg
.lib LTC.lib
.backanno
.end
